US05783704
1-Amino-3,4-dimethylimidazolidin-2-one (Compound 2.074 in Table 2)
1.6 g of Rh/C are added to a solution of 1-amino-3,4-dimethyl-2-oxo-1,3-dihydroimidazole hydrochloride in 150 ml of methanol and the reaction mixture is hydrogenated with hydrogen under normal pressure. After 4 hours, 1.13 litres of hydrogen have been taken up and the reaction ceases. The reaction mixture is then filtered over Celite and concentrated by evaporation. The residue is stirred with tetrahydrofuran. The crystals are filtered off with suction and dried in vacuo at 60°. 7 g of the title compound in the form of the hydrochloride having a melting point of 162°-164° are obtained.

reactant | 1-amino-3,4-dimethyl-2-oxo-1,3-dihydroimidazole hydrochloride | Cl.NN1C(N(C(=C1)C)C)=O
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 1.13 litres | [H][H] | H2
solvent | methanol | 150 ml | CO | CH4O
catalyst | Rh/C | 1.6 g | [Rh] | Rh
product | 1-Amino-3,4-dimethylimidazolidin-2-one | 7 g | NN1C(N(C(C1)C)C)=O | C5H11N3O
